US04797492
3-Trifluoromethyl-4-bromo-5-aminoisoxazole
The reaction was carried out according to the same procedure as described in Example 66 except that 3-trifluoromethyl-5-aminoisoxazole (1.06 g, 7.00 mmole), acetic acid (7 ml), anhydrous sodium acetate (0.57 g, 7.00 mmole) and bromine (1.34 g, 8.40 mmole) were used. The product was then purified by column chromatography on silica gel to give a yellow liquid (1.24 g). This product was distilled under reduced pressure to give the title compound as a colorless liquid. Yield: 1.07 g (66.2%), b.p. 85.5°-86.5° C./4.0 mmHg. The structure of this product was confirmed by IR and NMR.

reactant | 3-trifluoromethyl-5-aminoisoxazole | 7.00 mmole, 1.06 g | FC(C1=NOC(=C1)N)(F)F | C4H3F3N2O
reactant | sodium acetate | 7.00 mmole, 0.57 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 8.40 mmole, 1.34 g | BrBr | Br2
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | 3-Trifluoromethyl-4-bromo-5-aminoisoxazole | 1.24 g | FC(C1=NOC(=C1Br)N)(F)F | C4H2BrF3N2O
